US09193720B2
To a solution of 4-ethyl-4-methylpiperidine (0.760 g, 5.98 mmol) and DIEA (2.1 mL, 11.9 mmol) in anhydrous CH3CN (15 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (2.0 g, 5.98 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 24 h; cooled, diluted with ether, washed with water, brine, and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient eluted (5-15% EtOAc/hexanes) using an Isolera chromatography station to give isopropyl 2-(5-bromo-4-(4-ethyl-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate 2.51 g (99%). 1H NMR (500 MHz, CDCl3) δ 5.07-5.02 (m, 1H), 3.32 (br. s, 2H), 3.18 (br.s, 2H), 2.61 (s, 3H), 2.29 (s, 3H), 1.29-1.28 (m 12H), 0.89 (s, 3H), 0.80 (t, J=7.3 Hz, 3H). UPLC (M+H)=427.3.

reactant | 4-ethyl-4-methylpiperidine | 5.98 mmol, 0.760 g | C(C)C1(CCNCC1)C | C8H17N
reactant | DIEA | 11.9 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 5.98 mmol, 2.0 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | isopropyl 2-(5-bromo-4-(4-ethyl-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 2.51 g, 99% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)(C)CC | C20H29BrN2O3
